US05258523
3-Chloropyruvaldehyde-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-hydrazone
144.3 g of 4-(trifluoromethyl)-2,6-dichloroaniline (96 percent) was dissolved in 120 ml of acetic acid and mixed within one hour at 20° C. with 209.7 g of nitrosylsulfuric acid (40 percent in sulfuric acid monohydrate). Then the reaction mixture was cooled to 0° C. and diluted with 480 ml of water. This solution was instilled in a solution of 111.6 g of γ-chloroacetoacetyl chloride in 400 ml of dichloromethane (produced according to Swiss Patent No. 642,611) at -5° to 0° C. within one hour. The mixture was stirred for one more hour at 10° C., and then the phases were separated. The aqueous phase was extracted with 100 ml of dichloromethane, the combined organic phase concentrated by evaporation and the residue suspended with 300 ml of cyclohexane. The undissolved solid was filtered off, washed two times each with 100 ml of cyclohexane and dried at 40 torr. The yield of the product was 183.6 g of ochre crystals. Data concerning the product was:

reactant | 4-(trifluoromethyl)-2,6-dichloroaniline | 144.3 g | FC(C1=CC(=C(N)C(=C1)Cl)Cl)(F)F | C7H4Cl2F3N
reactant | nitrosylsulfuric acid | 209.7 g | N(=O)OS(O)(=O)=O | HNO5S
reactant | γ-chloroacetoacetyl chloride | 111.6 g | ClCC(CC(=O)Cl)=O | C4H4Cl2O2
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
solvent | water | 480 ml | O | H2O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 3-Chloropyruvaldehyde-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-hydrazone | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN=C(C=O)CCl | C10H6Cl3F3N2O
